US06645979B2
A solution of sodium hydroxide (214 g, 5.35 mol) in water (10 L) was added to a stirred suspension of 3-cyanophenylboronic acid (24% water content, 1.13 kg, 5.8 mol) and 7-bromoisoquinolinone (1.0 kg, 4.46 mol) in methanol (10 L) and the mixture stirred for 1 hour. Palladium acetate (10 g, 44.5 mmol) was added and the mixture was heated at reflux under N2 for 5 hours and then cooled to room temperature and stirred overnight. The light grey solid was collected by filtration. The damp solid was reslurried in water (10 L) and heated to 80° C. for 30 minutes. The mixture was then cooled to room temperature and the solid collected by filtration, washed with water (2 L) then methanol (2 L) and dried in vacuo at 50° C. to give 7-(3-cyanophenyl)isoquinolinone (1.09 kg, 4.43 mol, 99%) as a light grey solid.

reactant | sodium hydroxide | 5.35 mol, 214 g | [OH-].[Na+]
reactant | 3-cyanophenylboronic acid | 5.8 mol, 1.13 kg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 7-bromoisoquinolinone | 4.46 mol, 1.0 kg | BrC1=CC=C2C=CNC(C2=C1)=O | C9H6BrNO
solvent | water | 10 L | O | H2O
solvent | methanol | 10 L | CO | CH4O
catalyst | Palladium acetate | 44.5 mmol, 10 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-(3-cyanophenyl)isoquinolinone | 4.43 mol, 1.09 kg, 99% | C(#N)C=1C=C(C=CC1)C1=CC=C2C=CNC(C2=C1)=O | C16H10N2O
